US07592477B2
Step a) Formation of N-(4-dodec-1-ynylbenzyl)-N-[4-(trifluoromethyl)phenyl]amine
The same procedure as employed in the preparation of Example 226 (step a) but using 4-(trifluoromethyl)aniline and 4-dodec-1-ynylbenzaldehyde gave the title compound as a pale yellow oil (42%). 1H NMR (CDCl3, 300 MHz) δ 7.40-7.23 (m, 8H), 4.35 (s, 2H), 2.40 (m, 2H), 1.62-1.27 (m, 16H), 0.88 (t, 3H, J=6.8 Hz). HPLC (Condition A), Rt: 7.0 min (HPLC purity: 99.4%).

reactant | 4-(trifluoromethyl)aniline | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | 4-dodec-1-ynylbenzaldehyde | C(#CCCCCCCCCCC)C1=CC=C(C=O)C=C1 | C19H26O
product | N-(4-dodec-1-ynylbenzyl)-N-[4-(trifluoromethyl)phenyl]amine | 42% | C(#CCCCCCCCCCC)C1=CC=C(CNC2=CC=C(C=C2)C(F)(F)F)C=C1 | C26H32F3N
